US07687502B2
3-Fluoro-2-({4-[(5-methylpyrazin-2-yl)amino]-quinazolin-6-yl}oxy)benzonitrile
The compound of Example 157 was manufactured by the same method as in Example 95, by a similar method thereto or by a combination of such a method with a conventional method using 2,3-difluorobenzonitrile, 2-amino-5-methylpiperazine and 4-chloro-6-hydroxy-quinazoline.

reactant | 2,3-difluorobenzonitrile | FC1=C(C#N)C=CC=C1F | C7H3F2N
reactant | 2-amino-5-methylpiperazine | NC1NCC(NC1)C | C5H13N3
reactant | 4-chloro-6-hydroxy-quinazoline | ClC1=NC=NC2=CC=C(C=C12)O | C8H5ClN2O
product | 3-Fluoro-2-({4-[(5-methylpyrazin-2-yl)amino]-quinazolin-6-yl}oxy)benzonitrile | FC=1C(=C(C#N)C=CC1)OC=1C=C2C(=NC=NC2=CC1)NC1=NC=C(N=C1)C | C20H13FN6O
